US08609675B2
(Z)-Ethyl 4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-6-(2-ethoxyvinyl)-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)-1-methylcyclohex-3-enecarboxylate (crude Int-18h) was treated with a mixture of 50% TFA/H2O at rt overnight. The reaction mixture was evaporated to dryness and purified by Prep-LC to give ethyl 1-methyl-4-(3-(6-phenylpyridin-3-yl)-8H-pyrazolo[1,5-a]pyrrolo[3,2-e]pyrimidin-5-yl)cyclohex-3-enecarboxylate (Int-18i). HPLC-MS tR=1.86 min (UV254nm); mass calculated for formula C29H27N5O2 477.2, observed LCMS m/z 478.3 (M+H).

reactant | (Z)-Ethyl 4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-6-(2-ethoxyvinyl)-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)-1-methylcyclohex-3-enecarboxylate | C[Si](CCOCN(C1=C(C(=NC=2N1N=CC2C=2C=NC(=CC2)C2=CC=CC=C2)C2=CCC(CC2)(C(=O)OCC)C)\C=C/OCC)COCC[Si](C)(C)C)(C)C | C43H61N5O5Si2
reactant | TFA H2O | C(=O)(C(F)(F)F)O.O
product | ethyl 1-methyl-4-(3-(6-phenylpyridin-3-yl)-8H-pyrazolo[1,5-a]pyrrolo[3,2-e]pyrimidin-5-yl)cyclohex-3-enecarboxylate | CC1(CC=C(CC1)C1=NC=2N(C3=C1C=CN3)N=CC2C=2C=NC(=CC2)C2=CC=CC=C2)C(=O)OCC | C29H27N5O2
